US04204003
A solution of 3,4-dichloroaniline (200 g., 1.23 mole), cyclopentene oxide (400 ml.), and concentrated HCl (2 ml.) is heated at reflux temperature for seven (7) days. The unreacted epoxide is evaporated at 60° C. and the residue is treated with excess ethereal HCl, and a syrup results. This is washed with 1000 ml. of ether. The residue is crystallized and recrystallized from methanol/ether (1/5.5, v/v) to give 170.0 g. (49% yield) of trans-3,4-dichloro-N-(2-hydroxycyclopentyl)aniline, hydrochloride salt.

reactant | 3,4-dichloroaniline | 1.23 mole, 200 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | HCl | 2 ml | Cl | ClH
reactant | cyclopentene oxide | 400 ml | C12C(CCC1)O2 | C5H8O
product | trans-3,4-dichloro-N-(2-hydroxycyclopentyl)aniline, hydrochloride salt | 49% yield | Cl.ClC=1C=C(N[C@H]2[C@@H](CCC2)O)C=CC1Cl | InChI=1S/C11H13Cl2NO.ClH/c12-8-5-4-7(6-9(8)13)14-10-2-1-3-11(10)15;/h4-6,10-11,14-15H,1-3H2;1H/t10-,11-;/m1./s1
